US04444868
In 62.9 g of acetic anhydride, 26.73 g of 4-methylquinoline and 31.25 g of vanillin were refluxed overnight. The resultant reaction mixture was treated with an alkali. The product thus obtained was recrystallized via butyl cellosolve, to afford 29 g of 4-[2-(4-hydroxy-3-methoxyphenyl)-ethenyl]-quinoline having a melting point of 217°-219° C. From 0.55 g of this product, 1.75 g of triethylamine, 1.66 g of methacrylic acid chloride, and 16 cm3 of N,N-dimethylacetamide, there was obtained 4.70 g (80.3% in yield) of 4[2-(4-methacroyloxy-3-methoxyphenyl)-ethenyl]-quinoline having a melting point of 134°-135° C. This product was recrystallized via ethyl acetate and assayed by infrared absorption spectrometry and elementary analysis for its chemical structure.

reactant | 4-methylquinoline | 26.73 g | CC1=CC=NC2=CC=CC=C12 | C10H9N
reactant | vanillin | 31.25 g | O=CC1=CC(OC)=C(O)C=C1 | C8H8O3
solvent | acetic anhydride | 62.9 g | C(C)(=O)OC(C)=O | C4H6O3
product | 4-[2-(4-hydroxy-3-methoxyphenyl)-ethenyl]-quinoline | 29 g | OC1=C(C=C(C=C1)C=CC1=CC=NC2=CC=CC=C12)OC | C18H15NO2
